US07759337B2
To a stirred suspension of 4-chlorobenzoic acid (31.3 g, 200 mmol) in toluene (200 mL) was added oxalyl chloride (30 mL, 350 mmol) followed by DMF (0.1 mL). The resulting suspension was heated at reflux until all solids dissolved. The solvent was removed under reduced pressure by rotary evaporation. The resulting semi-solid residue was dissolved in ethyl acetate (200 mL) and cooled in an ice bath under nitrogen with mechanical stirring. A solution of tert-butylamine (53 mL, 500 mmol) in ethyl acetate (50 mL) was carefully added to the mixture dropwise keeping the internal temperature below 10° C. During addition the initially clear solution became thick colorless slurry. Ethyl acetate (50 mL) was added followed by sat. aq. NaHCO3 (300 mL) and the resulting mixture was stirred until two clear layers resulted. The biphasic mixture was transferred into a separatory funnel, and the organic layer was separated. The organic layer was then washed with water (100 mL), brine (100 mL), and dried over anhydrous Na2SO4. Recrystallization from ethyl acetate/hexanes afforded N-tert-butyl-4-chlorobenzamide (35.5 g, 84% yield) as colorless needles (mp 136-137° C.).

reactant | 4-chlorobenzoic acid | 200 mmol, 31.3 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | oxalyl chloride | 350 mmol, 30 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butylamine | 500 mmol, 53 mL | C(C)(C)(C)N | C4H11N
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | N-tert-butyl-4-chlorobenzamide | 35.5 g, 84% yield | C(C)(C)(C)NC(C1=CC=C(C=C1)Cl)=O | C11H14ClNO
